US08912186B2
To a solution of 4-iodo-1,2-phenylenediamine (0.47 g) in dichloromethane (3 ml) the solution of 3-(2-methylphenyl)glutaric anhydride (0.41 g) in dichloromethane (4 ml) was added with stirring at rt. Almost instantaneously an resinous precipitate is formed. After 1 h at rt all volatiles are removed in vacuo and the residue is taken up in 1,4-dioxane (2 ml). 4M HCl in 1,4-dioxane (3 ml) is added and the resulting dark solution is heated to reflux for 1 h. Again all volatiles are removed at the water aspirator and the residue is recrystallised from EtOAc/methanol to give 4-(5-iodo-2-benzimidazolyl)-3-(2-methylphenyl)butanoic acid•HCl (0.49 g) as light brown solid.

reactant | 4-iodo-1,2-phenylenediamine | 0.47 g | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(2-methylphenyl)glutaric anhydride | 0.41 g | CC1=C(C=CC=C1)C1CC(=O)OC(C1)=O | C12H12O3
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-(5-iodo-2-benzimidazolyl)-3-(2-methylphenyl)butanoic acid•HCl | 0.49 g | IC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=C(C=CC=C2)C)C=C1.Cl | InChI=1S/C18H17IN2O2.ClH/c1-11-4-2-3-5-14(11)12(9-18(22)23)8-17-20-15-7-6-13(19)10-16(15)21-17;/h2-7,10,12H,8-9H2,1H3,(H,20,21)(H,22,23);1H
